US05624950
To a solution of 1.5 g of (3aRS,4RS,7aSR)-4-(2-methoxyphenyl)-4-perhydroisoindolol and 1.27 g of 3-indoleacetic acid in 40 cm3 of dichloromethane, cooled to 0° C., are added 0.08 g of 1-hydroxybenzotriazole and 1.4 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. The mixture is stirred for 18 hours at room temperature and the organic phase is then washed with twice 80 cm3 of water and then with 80 cm3 of saturated aqueous sodium chloride solution, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (particle size 0.04-0.06 mm, diameter 4 cm, height 40 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (70/30 by volume) and collecting 40 cm3 fractions. Fractions 24 to 48 are combined and then concentrated to dryness under reduced pressure (2.7 kPa). 1.21 g of (3aRS,4RS,7aSR)-4-(2-methoxyphenyl)-2-(3-indolylacetyl)-4-perhydroisoindolol are obtained in the form of an off-white foam.

reactant | (3aRS,4RS,7aSR)-4-(2-methoxyphenyl)-4-perhydroisoindolol | 1.5 g | COC1=C(C=CC=C1)C1(C2CNCC2CCC1)O | C15H21NO2
reactant | 3-indoleacetic acid | 1.27 g | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | 1-hydroxybenzotriazole | 0.08 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.4 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
product | (3aRS,4RS,7aSR)-4-(2-methoxyphenyl)-2-(3-indolylacetyl)-4-perhydroisoindolol | 1.21 g | COC1=C(C=CC=C1)C1(C2CN(CC2CCC1)C(CC1=CNC2=CC=CC=C12)=O)O | C25H28N2O3
